US04906634
3-[(3-Methyl-4-nitrophenyl)thio]-N,N-bis-(1-methylethyl)propanamine
In a manner similar to Preparation 43 react 5-fluoro-2-nitrotoluene with 3-[bis(1-methylethyl)amino]propanethiol to obtain the tile compound.

reactant | 5-fluoro-2-nitrotoluene | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | 3-[bis(1-methylethyl)amino]propanethiol | CC(C)N(CCCS)C(C)C | C9H21NS
product | 3-[(3-Methyl-4-nitrophenyl)thio]-N,N-bis-(1-methylethyl)propanamine | CC=1C=C(C=CC1[N+](=O)[O-])SCCCN(C(C)C)C(C)C | C16H26N2O2S
